US04670488
To the same flask as used in Example 1 were added 24.2 g (0.1 mole) of N-(1,2,2,6,6-pentamethyl-4-piperidinyl)glycine methyl ester, 18.7 g (0.11 mole) of 1,2,2,6,6-pentamethyl-4-piperidinol, 0.23 g of lithium amide and 100 g of heptane. The temperature was raised with stirring, and reaction was carried out at 98° to 105° C. for 6 hours, during which methanol was removed from the reaction system by means of the Deanstark trap. After completion of the reaction, water was added to the reaction solution to dissolve the product in the heptane layer. The heptane layer was separated, and heptane in the layer was removed by distillation to obtain 30 g of N-(1,2,2,6,6-pentamethyl-4-piperidinyl)glycine(1,2,2,6,6-pentamethyl-4-piperidinyl)ester as a pale yellow liquid. Yield, 79% based on N-(1,2,2,6,6-pentamethyl-4-piperidinyl)glycine methyl ester. A pale yellow oily product was obtained by the subsequent column chromatographic separation.

reactant | N-(1,2,2,6,6-pentamethyl-4-piperidinyl)glycine methyl ester | 0.1 mole, 24.2 g | COC(CNC1CC(N(C(C1)(C)C)C)(C)C)=O | C13H26N2O2
reactant | 1,2,2,6,6-pentamethyl-4-piperidinol | 0.11 mole, 18.7 g | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
reactant | lithium amide | 0.23 g | [NH2-].[Li+]
reactant | methanol | CO | CH4O
solvent | heptane | CCCCCCC | C7H16
solvent | heptane | 100 g | CCCCCCC | C7H16
product | N-(1,2,2,6,6-pentamethyl-4-piperidinyl)glycine(1,2,2,6,6-pentamethyl-4-piperidinyl)ester | 30 g | CN1C(CC(CC1(C)C)OC(CNC1CC(N(C(C1)(C)C)C)(C)C)=O)(C)C | C22H43N3O2
